US05708008
5-(2-furoyl)amino-3-(1-ethylpiperidin-4-yl)-1H-indole
To a solution of 0.780 gm (3.2 mMol) 5-amino-3-(1-ethylpiperidin-4-yl)-1H-indole in 10 mL tetrahydrofuran and 10 mL dimethylformamide were added 0.536 mL (3.85 mMol) triethylamine followed by the dropwise addition of 0.348 mL (3.5 mMol) 2-furoyl chloride. After 18 hours the reaction mixture was cooled in an ice bath. The reaction mixture was the partitioned between 100 mL ethyl acetate and 100 mL 2N sodium hydroxide. The phases were separated and the aqueous extracted again with ethyl acetate. Organic extracts were combined and washed sequentially with 2N sodium hydroxide, water and saturated aqueous sodium chloride. The remaining organics were dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to radial chromatography (2 mm silica), eluting with 100:10:1 dichloromethane:methanol:ammonium hydroxide. Fractions containing product were combined and concentrated under reduced pressure. The residue was crystallized from ethyl acetate/hexane to give 0.789 gm (73.1%) of the title compound as an off-white solid.

reactant | 5-amino-3-(1-ethylpiperidin-4-yl)-1H-indole | 3.2 mMol, 0.780 gm | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)CC | C15H21N3
reactant | triethylamine | 3.85 mMol, 0.536 mL | C(C)N(CC)CC | C6H15N
reactant | 2-furoyl chloride | 3.5 mMol, 0.348 mL | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 5-(2-furoyl)amino-3-(1-ethylpiperidin-4-yl)-1H-indole | 0.789 gm, 73.1% | O1C(=CC=C1)C(=O)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)CC | C20H23N3O2
